US04096267
Step B: Ethyl[1-oxo-2-(4-aminomethylphenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetate hydrochloride
{1-Oxo-2-[4-(2-chloroacetamidomethyl)phenyl]-2-methyl-6,7-dichloro-5-indanyloxy}acetic acid (2.0 g., 0.004 mole), absolute ethanol (20 ml.) and 12N hydrochloric acid (7 ml.) are combined and heated at reflux for 3 hours. On cooling to 5° C. 1.14 g. of ethyl[1-oxo-2-(4-aminomethylphenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetate hydrochloride precipitates and melts at 211°-213° C. after crystallization from ethanol.

reactant | {1-Oxo-2-[4-(2-chloroacetamidomethyl)phenyl]-2-methyl-6,7-dichloro-5-indanyloxy}acetic acid | 0.004 mole, 2.0 g | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C)C1=CC=C(C=C1)CNC(CCl)=O | C21H18Cl3NO5
reactant | hydrochloric acid | 12N, 7 ml | Cl | ClH
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | Ethyl[1-oxo-2-(4-aminomethylphenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetate hydrochloride | Cl.C(C)OC(COC=1C=C2CC(C(C2=C(C1Cl)Cl)=O)(C)C1=CC=C(C=C1)CN)=O | InChI=1S/C21H21Cl2NO4.ClH/c1-3-27-16(25)11-28-15-8-13-9-21(2,14-6-4-12(10-24)5-7-14)20(26)17(13)19(23)18(15)22;/h4-8H,3,9-11,24H2,1-2H3;1H
